US05466787
2',3',5'-Tris(methanesulfonyl)-5-methyluridine (2)
To a stirred mixture of 5-methyluridine (12.8 g, 50 mmol) in pyridine (75 mL) at 0° C. was added methanesulfonyl chloride (17.4 mL, 225 mmol). The reaction mixture was stirred at 0° C. for five hours then poured into ice-water (500 mL) with stirring. Trimethanesulfonyl-5-methyluridine (2) precipitated and the mixture was stirred for 5 min. The solid product was collected by filtration and washed with water (3×200 mL) and dried. Yield, 21.6 g, 89%.

reactant | 5-methyluridine | 50 mmol, 12.8 g | CC=1C(NC(N([C@H]2[C@H](O)[C@H](O)[C@@H](CO)O2)C1)=O)=O | C10H14N2O6
reactant | methanesulfonyl chloride | 225 mmol, 17.4 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 75 mL | N1=CC=CC=C1 | C5H5N
product | 2',3',5'-Tris(methanesulfonyl)-5-methyluridine | CS(=O)(=O)[C@@]1([C@@H](O[C@@H]([C@]1(O)S(=O)(=O)C)C(O)S(=O)(=O)C)N1C(=O)NC(=O)C(=C1)C)O | C13H20N2O12S3
